US07491735B2
Using general procedure A with p-phenetidine (137 mg, 1.20 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (166 mg, 1.20 mmol) followed by general procedure J gave [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-ethoxy-phenyl)-amine (251 mg).

reactant | p-phenetidine | 1.20 mmol, 137 mg | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 1.20 mmol, 166 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-ethoxy-phenyl)-amine | 251 mg | NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)OCC | C17H29N3O
